US06677351B2
To a solution of 2,5-dibromopyridine (4.5 g, 19 mmol) in tetrahydrofuran (50 ml) was added [1,1′-bis (diphenylphosphino)ferrocene]dichloronickel (II) (103 mg, 0.19 mmol) and the resulting mixture was cooled to −10° C. A 2M solution of isobutylmagnesium bromide in ether (12.4 ml, 24.7 mmol) was added slowly and the mixture was stirred at −10 to 10° C for 3.5 hours. After quenching with saturated aqueous ammonium chloride solution, the mixture was partitioned between ether and water and the product from the organic phase was chromatographed on silica gel eluting with 10% ether in pentane to afford the 5-Bromo-2-(2-methylpropyl)pyridine compound as a volatile oil.

reactant | 2,5-dibromopyridine | 19 mmol, 4.5 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | isobutylmagnesium bromide | C(C(C)C)[Mg]Br
reactant | ether | 24.7 mmol, 12.4 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | [1,1′-bis (diphenylphosphino)ferrocene]dichloronickel (II) | 0.19 mmol, 103 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)P(C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.Cl[Ni]Cl.[Fe]
product | 5-Bromo-2-(2-methylpropyl)pyridine | BrC=1C=CC(=NC1)CC(C)C | C9H12BrN
